US07514419B2
To a solution of 3,5-dimethyl-4-[3′-(4-fluorobenzyl)-4′-methoxymethoxybenzyl]phenyl trifluoromethanesulfonate (5.8 g, 11.32 mmol) in DMF (80 mL) in a bomb apparatus was added MeOH (9.2 mL, 226.4 mmol), Pd(OAc)2 (0.25 g, 1.13 mmol), DPPP (0.47 g, 1.13 mmol) and TEA (3.2 mL, 22.64 mmol). 60 psi of CO was then infused and the reaction mixture was stirred at 90° C. for 16 h. The bomb was cooled to 0° C., vented, its content poured into cold 1 N HCl and extracted with EtOAc twice. The combined EtOAc extracts were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (15:85) to afford methyl 3,5-dimethyl-4-[3′-(4-fluorobenzyl)-4′-methoxymethoxybenzyl]benzoate as a colorless oil (4.8 g, 100%): 1H NMR (200 MHz, DMSO-d6): δ 7.64 (s, 2H), 6.68-7.25 (m, 7H), 5.13 (s, 2H), 3.97 (s, 2H), 3.83 (s, 5H), 3.24 (s, 3H), 2.23 (s, 6H). TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (15:75); Rf=0.52.

reactant | 3,5-dimethyl-4-[3′-(4-fluorobenzyl)-4′-methoxymethoxybenzyl]phenyl trifluoromethanesulfonate | 11.32 mmol, 5.8 g | FC(S(=O)(=O)OC1=CC(=C(C(=C1)C)CC1=CC(=C(C=C1)OCOC)CC1=CC=C(C=C1)F)C)(F)F | C25H24F4O5S
reactant | MeOH | 226.4 mmol, 9.2 mL | CO | CH4O
reactant | DPPP | 1.13 mmol, 0.47 g | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | HCl | 1 N | Cl | ClH
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 1.13 mmol, 0.25 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 3,5-dimethyl-4-[3′-(4-fluorobenzyl)-4′-methoxymethoxybenzyl]benzoate | 4.8 g, 100% | CC=1C=C(C(=O)OC)C=C(C1CC1=CC(=C(C=C1)OCOC)CC1=CC=C(C=C1)F)C | C26H27FO4
